US07214673B2
(S)-2-(2-Naphthalen-2-yl-ethyl)-piperazine
Dissolve (S)-1,4-dibenzyl-2-(2-naphthalen-2-yl-ethyl)-piperazine (6.53 g, 15.5 mmol) in ethanol (80 mL). Add ammonium formate (5.9 g, 93.6 mmol) and palladium hydroxide (1.5 g, 20 wt. % on carbon) and heat to reflux. After 8.5 h, cool and stir at ambient temperature 18 h. Filter the palladium hydroxide and concentrate the filtrate. Purify by silica gel chromatography using 7N ammonia in methanol-methylene chloride (2.5%–10%) as the eluent to give 2.86 g (77%) of the title compound: mp 151–4° C.; mass spectrum (ion spray): m/z=241 (M+1).

reactant | (S)-1,4-dibenzyl-2-(2-naphthalen-2-yl-ethyl)-piperazine | 15.5 mmol, 6.53 g | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)CCC1=CC2=CC=CC=C2C=C1 | C30H32N2
reactant | ammonium formate | 93.6 mmol, 5.9 g | C(=O)[O-].[NH4+]
solvent | ethanol | 80 mL | C(C)O | C2H6O
catalyst | palladium hydroxide | 1.5 g | [OH-].[Pd+2].[OH-]
product | (S)-2-(2-Naphthalen-2-yl-ethyl)-piperazine | 2.86 g, 77% | C1=C(C=CC2=CC=CC=C12)CC[C@@H]1NCCNC1 | C16H20N2
